* source HAND_PDN_V2
V_V1         VBAT 0 {VBAT_VALUE}
V_V3         N05747 0  
+PWL 0 0 19.999m 0 20m {VBUS_VALUE} 27m {VBUS_VALUE} 27.001m 0 
R_R1         N00365 0  100k TC=0,0 
R_R2         VBUS 0  100k TC=0,0 
C_C1         V_LOAD_SHARING 0  10n IC=0 TC=0,0 
X_U5         V_LOAD_SHARING V_LOAD_SHARING_FILTED BLM18SG700TZ1
C_C2         0 V_LOAD_SHARING_FILTED  100n IC=0 TC=0,0 
C_C3         0 N011101  4.7u IC=0 TC=0,0 
X_U6         N01337 V_LOAD_SHARING_FILTED V_LOAD_SHARING_FILTED
+  V_LOAD_SHARING_FILTED V_LOAD_SWITCH_OUT V_LOAD_SWITCH_OUT
+  V_LOAD_SHARING_FILTED 0 TPS22965_TRANS
C_C4         0 V_LOAD_SHARING_FILTED  1u IC=0 TC=0,0 
C_C5         0 N01337  10n IC=0 TC=0,0 
X_U7         N00322 N00326 VBUS DMP2035UVT
X_U8         N00365 N00526 VBAT DMP2035UVT
X_U9         N00322 N00326 V_LOAD_SHARING DMP2035UVT
X_U10         N00365 N00526 V_LOAD_SHARING DMP2035UVT
X_S1    N05747 0 N05747 VBUS SCHEMATIC1_S1 
C_C6         0 V_LOAD_SWITCH_OUT  100u IC=0 TC=0,0 
X_U11         N18003 TPS61023_FB 0 N07126 V_LOAD_SWITCH_OUT V5V
+  TPS61023_SCHEMATIC 
C_C7         V_LOAD_SWITCH_OUT 0  10u IC=0 TC=0,0 
C_C8         TPS61023_FB V5V  3p IC=0 TC=0,0 
R_R4         TPS61023_FB V5V  732k TC=0,0 
R_R5         0 TPS61023_FB  100k TC=0,0 
L_L1         N07126 V_LOAD_SWITCH_OUT  1uH IC=0 
C_C9         V5V 0  10.5u IC=0 TC=0,0 
X_U12         0 N13404 N10413 0 0 N09969 N09969 N09973 N09973 0 N0994712
+  V_LOAD_SWITCH_OUT V_LOAD_SWITCH_OUT V3V3 V3V3 TPS63805_TRANS PARAMS:
+  STEADY_STATE=0
C_C11         V_LOAD_SWITCH_OUT 0  10u IC=0 TC=0,0 
L_L2         N09969 N09973  0.47u IC=0 
C_C12         V3V3 0  42.3u IC=0 TC=0,0 
R_R11         V3V3 0  {V3V3_VALUE/I3V3_VALUE} TC=0,0 
R_R8         V3V3 N10413  511k TC=0,0 
R_R9         N10413 0  91k TC=0,0 
R_R10         V3V3 N0994712  100k TC=0,0 
R_R6         V5V 0  {V5V_VALUE/I5V_VALUE} TC=0,0 
R_R3         V_LOAD_SHARING_FILTED N011101  1 TC=0,0 
R_R12         V_LOAD_SWITCH_OUT N13404  75k TC=0,0 
R_R13         N13404 0  49.9k TC=0,0 
C_C13         N13404 0  100n IC=0 TC=0,0 
R_R16         N00326 N00365  100 TC=0,0 
R_R17         N00526 VBUS  100 TC=0,0 
R_R18         V_LOAD_SWITCH_OUT N18003  75k TC=0,0 
R_R19         N18003 0  49.9k TC=0,0 
C_C14         0 N18003  100n IC=0 TC=0,0 
.PARAM  vbus_unplug_time=20m v3v3_value=3.3 vbat_value=3.7 ss=0 vbus_value=5.25
+  i3v3_value=0.4 vbus_unplug_time_p1u=19.999m v5v_value=5 i5v_value=0.6
+  vbus_insert_time=10m vbus_insert_time_m1u=9.999m

.subckt SCHEMATIC1_S1 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=1Meg Ron=0.01 Voff=2.5 Von=2.8
.ends SCHEMATIC1_S1
