*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : BLM18SG700TN1
* Property : Z@100MHz = 70[ohm]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 3GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT BLM18SG700TN1 port1 port2
R1 port1 1 58.06
C2 1 2 4.739e-9
L1 port1 2 3.515e-7
R2 2 3 35.17
L2 2 3 3.158e-8
C1 port1 3 5.229e-13
R3 3 4 261.6
L3 3 4 9.056e-10
R4 4 port2 1.200e-2
.ENDS BLM18SG700TN1
*----------------------------------------------------------------------
