* CL05A105KA5NQN Multilayer Ceramic Capacitor Spice Model
*-----------------------------------------------------------------------------------------------
* Model Generated by Samsung Electro-Mechanics
* Samsung Spice Model Version 5.0
* Date : Apr-22-2024
* Products : Multilayer Ceramic Capacitor(General)
*-----------------------------------------------------------------------------------------------
* Characteristics :
*
*     Nominal Capacitance = 1uF
*     Capacitance Tolerance = +/-10%
*     TCC = X5R(-55 ~ +85 degC.)
*     Rated Voltage = 25Vdc
*     Size = 0402(unit:inch), 1005(unit:mm)
*     Length = 1.00+/-0.10mm
*     Width = 0.50+/-0.10mm
*     Thickness = 0.50+/-0.10mm
*     Reliability level = Standard
*     Lineup = Lineup Normal
*     Feature = Features Normal
*     Measurement Temperature : 25degC.
*     DC bias Value = 0V
*     Frequency : 100Hz ~ 6GHz
*-----------------------------------------------------------------------------------------------
* External Node Assignments :
*
*  1  o---||---o  2
*
*-----------------------------------------------------------------------------------------------
.SUBCKT CL05A105KA5NQN_Precise_1uF_25V 1 2
C1 1 3 8.64768E-7
C2 3 4 2.49916E-5
C3 4 5 2.35587E-5
C4 5 6 2.40767E-5
C5 6 7 2.27510E-5
C6 7 8 1.83369E-5
C7 8 9 2.32691E-5
C8 9 10 1.18776E-5
C16 17 18 2.53303E-4
C17 18 19 1.20059E-4
C18 19 20 2.22876E-4
C19 20 21 3.46254E-4
C20 21 22 0.00125
C21 22 23 3.21643E-4
C22 23 24 2.53303E-4
C23 24 25 3.20653E-6
C24 25 26 6.94662E-7
C25 26 27 2.61345E-8
C26 27 28 1.06742E-11
C27 28 2 2.53303E-4
L10 11 12 5.89875E-11
L11 12 13 2.99768E-11
L12 13 14 3.17073E-11
L13 14 15 3.18444E-11
L14 15 16 1.0E-10
L15 16 17 1.0E-10
L16 17 18 1.0E-10
L17 18 19 4.88150E-11
L18 19 20 8.31929E-12
L19 20 21 1.97709E-12
L20 21 22 3.46348E-13
L21 22 23 2.84340E-13
L22 23 24 1.0E-10
L23 24 25 2.05509E-11
L24 25 26 3.80413E-11
L25 26 27 8.46830E-11
L26 27 28 3.32487E-11
L27 28 2 1.0E-10
R1 1 3 1.0E8
R2 3 4 526.52396
R3 4 5 86.99607
R4 5 6 15.34771
R5 6 7 2.61022
R6 7 8 0.51392
R7 8 9 0.06767
R8 9 10 0.02126
R9 10 11 0.00837
R11 12 13 0.06641
R12 13 14 0.06285
R13 14 15 0.47294
R14 15 16 1.0E-6
R15 16 17 1.0E-6
R16 17 18 1.0E-6
R17 18 19 6.41173E-4
R18 19 20 6.07541E-4
R19 20 21 2.08244E-4
R20 21 22 1.45939E-4
R21 22 23 2.75717E-4
R22 23 24 1.0E-6
R23 24 25 0.00489
R24 25 26 0.00783
R25 26 27 0.02380
R26 27 28 3.66908
R27 28 2 1.0E-6
.ENDS CL05A105KA5NQN_Precise_1uF_25V