* CL10A475KO8NNN Multilayer Ceramic Capacitor Spice Model
*-----------------------------------------------------------------------------------------------
* Model Generated by Samsung Electro-Mechanics
* Samsung Spice Model Version 5.0
* Date : Apr-19-2024
* Products : Multilayer Ceramic Capacitor(General)
*-----------------------------------------------------------------------------------------------
* Characteristics :
*
*     Nominal Capacitance = 4.7uF
*     Capacitance Tolerance = +/-10%
*     TCC = X5R(-55 ~ +85 degC.)
*     Rated Voltage = 16Vdc
*     Size = 0603(unit:inch), 1608(unit:mm)
*     Length = 1.60+/-0.10mm
*     Width = 0.80+/-0.10mm
*     Thickness = 0.80+/-0.10mm
*     Reliability level = Standard
*     Lineup = Lineup Normal
*     Feature = Features Normal
*     Measurement Temperature : 25degC.
*     DC bias Value = 0V
*     Frequency : 100Hz ~ 6GHz
*-----------------------------------------------------------------------------------------------
* External Node Assignments :
*
*  1  o---||---o  2
*
*-----------------------------------------------------------------------------------------------
.SUBCKT CL10A475KO8NNN_Precise_4u7F_16V 1 2
C1 1 3 3.75376E-6
C2 3 4 3.79947E-4
C3 4 5 7.37676E-5
C4 5 6 9.07960E-5
C5 6 7 7.96031E-5
C6 7 8 8.65420E-5
C7 8 9 4.56481E-5
C8 9 10 1.0E-10
C16 17 18 8.91324E-5
C17 18 19 0.00329
C18 19 20 4.07796E-4
C19 20 21 1.53638E-5
C20 21 22 2.53303E-4
C21 22 23 2.53303E-4
C22 23 24 2.53303E-4
C23 24 25 2.28620E-5
C24 25 26 1.83231E-6
C25 26 27 2.53303E-4
C26 27 28 1.33139E-11
C27 28 2 2.53303E-4
L10 11 12 9.27185E-11
L11 12 13 2.18275E-10
L12 13 14 1.78062E-11
L13 14 15 5.06729E-11
L14 15 16 1.0E-10
L15 16 17 1.0E-10
L16 17 18 1.63878E-10
L17 18 19 1.34137E-12
L18 19 20 3.96576E-12
L19 20 21 6.53660E-11
L20 21 22 1.0E-10
L21 22 23 1.0E-10
L22 23 24 1.0E-10
L23 24 25 2.26947E-11
L24 25 26 1.39919E-10
L25 26 27 1.0E-10
L26 27 28 4.80605E-11
L27 28 2 1.0E-10
R1 1 3 1.0E8
R2 3 4 146.28387
R3 4 5 17.73593
R4 5 6 1.91151
R5 6 7 0.33214
R6 7 8 0.04030
R7 8 9 0.00930
R8 9 10 1.0E-6
R9 10 11 0.00321
R11 12 13 0.03164
R12 13 14 0.10415
R13 14 15 0.13075
R14 15 16 1.0E-6
R15 16 17 1.0E-6
R16 17 18 5.81861E-4
R17 18 19 1.59232E-4
R18 19 20 8.66254E-5
R19 20 21 1.30440E-4
R20 21 22 1.0E-6
R21 22 23 1.0E-6
R22 23 24 1.0E-6
R23 24 25 0.00230
R24 25 26 0.00796
R25 26 27 1.0E-6
R26 27 28 2.63008
R27 28 2 1.0E-6
.ENDS CL10A475KO8NNN_Precise_4u7F_16V