* CL10A106MA8NRN Multilayer Ceramic Capacitor Spice Model
*-----------------------------------------------------------------------------------------------
* Model Generated by Samsung Electro-Mechanics
* Samsung Spice Model Version 5.0
* Date : Apr-22-2024
* Products : Multilayer Ceramic Capacitor(General)
*-----------------------------------------------------------------------------------------------
* Characteristics :
*
*     Nominal Capacitance = 10uF
*     Capacitance Tolerance = +/-20%
*     TCC = X5R(-55 ~ +85 degC.)
*     Rated Voltage = 25Vdc
*     Size = 0603(unit:inch), 1608(unit:mm)
*     Length = 1.60+/-0.20mm
*     Width = 0.80+/-0.20mm
*     Thickness = 0.80+/-0.20mm
*     Reliability level = Standard
*     Lineup = Lineup Normal
*     Feature = Features Normal
*     Measurement Temperature : 25degC.
*     DC bias Value = 0V
*     Frequency : 0Hz ~ 0Hz
*-----------------------------------------------------------------------------------------------
* External Node Assignments :
*
*  1  o---||---o  2
*
*-----------------------------------------------------------------------------------------------
.SUBCKT CL10A106MA8NRN_Precise_10uF_25V 1 2
C1 1 3 7.98145E-6
C2 3 4 4.78576E-4
C3 4 5 2.96473E-4
C4 5 6 4.10281E-4
C5 6 7 4.03733E-4
C6 7 8 3.92221E-4
C7 8 9 2.72531E-4
C8 9 10 1.0E-10
C16 17 18 0.00296
C17 18 19 0.00142
C18 19 20 0.00499
C19 20 21 8.65188E-4
C20 21 22 1.30550E-4
C21 22 23 8.03985E-4
C22 23 24 2.53303E-4
C23 24 25 8.29181E-6
C24 25 26 1.12872E-6
C25 26 27 2.53303E-4
C26 27 28 1.59326E-11
C27 28 2 2.53303E-4
L10 11 12 1.01119E-10
L11 12 13 1.07937E-10
L12 13 14 5.44568E-11
L13 14 15 4.86454E-11
L14 15 16 1.0E-10
L15 16 17 1.0E-10
L16 17 18 3.08474E-11
L17 18 19 8.27355E-12
L18 19 20 1.11912E-12
L19 20 21 2.46669E-12
L20 21 22 9.77104E-12
L21 22 23 3.40292E-10
L22 23 24 1.0E-10
L23 24 25 1.41724E-10
L24 25 26 1.97877E-10
L25 26 27 1.0E-10
L26 27 28 3.82495E-11
L27 28 2 1.0E-10
R1 1 3 1.0E8
R2 3 4 53.36179
R3 4 5 4.85555
R4 5 6 0.59077
R5 6 7 0.12717
R6 7 8 0.02288
R7 8 9 0.00552
R8 9 10 1.0E-6
R9 10 11 0.00196
R11 12 13 0.02106
R12 13 14 0.01032
R13 14 15 0.12291
R14 15 16 1.0E-6
R15 16 17 1.0E-6
R16 17 18 8.27549E-5
R17 18 19 1.49634E-4
R18 19 20 2.01108E-4
R19 20 21 1.25441E-4
R20 21 22 5.12980E-4
R21 22 23 4.52857E-4
R22 23 24 1.0E-6
R23 24 25 0.00519
R24 25 26 0.00848
R25 26 27 1.0E-6
R26 27 28 2.33065
R27 28 2 1.0E-6
.ENDS CL10A106MA8NRN_Precise_10uF_25V