* CL21A226MAQNNN Multilayer Ceramic Capacitor Spice Model
*-----------------------------------------------------------------------------------------------
* Model Generated by Samsung Electro-Mechanics
* Samsung Spice Model Version 5.0
* Date : Apr-24-2024
* Products : Multilayer Ceramic Capacitor(General)
*-----------------------------------------------------------------------------------------------
* Characteristics :
*
*     Nominal Capacitance = 22uF
*     Capacitance Tolerance = +/-20%
*     TCC = X5R(-55 ~ +85 degC.)
*     Rated Voltage = 25Vdc
*     Size = 0805(unit:inch), 2012(unit:mm)
*     Length = 2.00+/-0.15mm
*     Width = 1.25+/-0.15mm
*     Thickness = 1.25+/-0.15mm
*     Reliability level = Standard
*     Lineup = Lineup Normal
*     Feature = Features Normal
*     Measurement Temperature : 25degC.
*     DC bias Value = 0V
*     Frequency : 0Hz ~ 0Hz
*-----------------------------------------------------------------------------------------------
* External Node Assignments :
*
*  1  o---||---o  2
*
*-----------------------------------------------------------------------------------------------
.SUBCKT CL21A226MAQNNN_Precise_22uF_25V 1 2
C1 1 3 1.77234E-5
C2 3 4 4.12755E-4
C3 4 5 7.77267E-4
C4 5 6 8.32863E-4
C5 6 7 8.75753E-4
C6 7 8 7.56998E-4
C7 8 9 3.82620E-4
C8 9 10 1.0E-10
C16 17 18 2.35766E-4
C17 18 19 0.00438
C18 19 20 0.01253
C19 20 21 1.24947E-4
C20 21 22 2.53303E-4
C21 22 23 2.53303E-4
C22 23 24 2.53303E-4
C23 24 25 1.55204E-5
C24 25 26 1.01908E-6
C25 26 27 2.53303E-4
C26 27 28 8.37979E-11
C27 28 2 7.66670E-11
L10 11 12 7.47289E-11
L11 12 13 1.47234E-10
L12 13 14 1.89800E-11
L13 14 15 8.93043E-11
L14 15 16 1.0E-10
L15 16 17 1.0E-10
L16 17 18 4.71487E-10
L17 18 19 4.60640E-12
L18 19 20 9.30088E-13
L19 20 21 3.24008E-11
L20 21 22 1.0E-10
L21 22 23 1.0E-10
L22 23 24 1.0E-10
L23 24 25 1.70124E-10
L24 25 26 2.61476E-10
L25 26 27 1.0E-10
L26 27 28 2.41036E-11
L27 28 2 9.76051E-12
R1 1 3 1.0E8
R2 3 4 12.07274
R3 4 5 0.75716
R4 5 6 0.14631
R5 6 7 0.02983
R6 7 8 0.00754
R7 8 9 0.00275
R8 9 10 1.0E-6
R9 10 11 0.00159
R11 12 13 0.02438
R12 13 14 0.01155
R13 14 15 0.21881
R14 15 16 1.0E-6
R15 16 17 1.0E-6
R16 17 18 5.80748E-4
R17 18 19 1.14810E-4
R18 19 20 1.04917E-4
R19 20 21 5.84714E-5
R20 21 22 1.0E-6
R21 22 23 1.0E-6
R22 23 24 1.0E-6
R23 24 25 0.00346
R24 25 26 0.00655
R25 26 27 1.0E-6
R26 27 28 0.74164
R27 28 2 0.49587
.ENDS CL21A226MAQNNN_Precise_22uF_25V