* CL21A476MQYNNN Multilayer Ceramic Capacitor Spice Model
*-----------------------------------------------------------------------------------------------
* Model Generated by Samsung Electro-Mechanics
* Samsung Spice Model Version 5.0
* Date : Apr-26-2024
* Products : Multilayer Ceramic Capacitor(General)
*-----------------------------------------------------------------------------------------------
* Characteristics :
*
*     Nominal Capacitance = 47uF
*     Capacitance Tolerance = +/-20%
*     TCC = X5R(-55 ~ +85 degC.)
*     Rated Voltage = 6.3Vdc
*     Size = 0805(unit:inch), 2012(unit:mm)
*     Length = 2.00+/-0.20mm
*     Width = 1.25+/-0.20mm
*     Thickness = 1.25+/-0.20mm
*     Reliability level = Standard
*     Lineup = Lineup Normal
*     Feature = Features Normal
*     Measurement Temperature : 25degC.
*     DC bias Value = 0V
*     Frequency : 100Hz ~ 6GHz
*-----------------------------------------------------------------------------------------------
* External Node Assignments :
*
*  1  o---||---o  2
*
*-----------------------------------------------------------------------------------------------
.SUBCKT CL21A476MQYNNN_Precise_47uF_6v3 1 2
C1 1 3 3.17991E-5
C2 3 4 6.99532E-4
C3 4 5 0.00104
C4 5 6 0.00106
C5 6 7 0.00104
C6 7 8 8.79682E-4
C7 8 9 5.56168E-4
C8 9 10 1.0E-10
C16 17 18 0.02142
C17 18 19 0.00151
C18 19 20 2.53303E-4
C19 20 21 2.53303E-4
C20 21 22 2.53303E-4
C21 22 23 2.53303E-4
C22 23 24 2.53303E-4
C23 24 25 4.42148E-5
C24 25 26 2.76364E-5
C25 26 27 2.53303E-4
C26 27 28 4.30040E-11
C27 28 2 6.55151E-12
L10 11 12 3.49077E-11
L11 12 13 3.40081E-10
L12 13 14 1.13896E-10
L13 14 15 4.91494E-11
L14 15 16 1.0E-10
L15 16 17 1.0E-10
L16 17 18 9.18959E-13
L17 18 19 7.54866E-12
L18 19 20 1.0E-10
L19 20 21 1.0E-10
L20 21 22 1.0E-10
L21 22 23 1.0E-10
L22 23 24 1.0E-10
L23 24 25 1.61536E-10
L24 25 26 8.26357E-11
L25 26 27 1.0E-10
L26 27 28 3.06251E-11
L27 28 2 3.71851E-11
R1 1 3 1.0E8
R2 3 4 3.53653
R3 4 5 0.36322
R4 5 6 0.06650
R5 6 7 0.01190
R6 7 8 0.00237
R7 8 9 4.04654E-4
R8 9 10 1.0E-6
R9 10 11 0.00147
R11 12 13 0.00987
R12 13 14 0.02992
R13 14 15 0.10015
R14 15 16 1.0E-6
R15 16 17 1.0E-6
R16 17 18 1.13301E-5
R17 18 19 2.88535E-4
R18 19 20 1.0E-6
R19 20 21 1.0E-6
R20 21 22 1.0E-6
R21 22 23 1.0E-6
R22 23 24 1.0E-6
R23 24 25 0.00205
R24 25 26 0.00200
R25 26 27 1.0E-6
R26 27 28 1.31780
R27 28 2 3.99304
.ENDS CL21A476MQYNNN_Precise_47uF_6v3