* CL05B103KB5NNN Multilayer Ceramic Capacitor Spice Model
*-----------------------------------------------------------------------------------------------
* Model Generated by Samsung Electro-Mechanics
* Samsung Spice Model Version 5.0
* Date : Apr-19-2024
* Products : Multilayer Ceramic Capacitor(General)
*-----------------------------------------------------------------------------------------------
* Characteristics :
*
*     Nominal Capacitance = 10nF
*     Capacitance Tolerance = +/-10%
*     TCC = X7R(-55 ~ +125 degC.)
*     Rated Voltage = 50Vdc
*     Size = 0402(unit:inch), 1005(unit:mm)
*     Length = 1.00+/-0.05mm
*     Width = 0.50+/-0.05mm
*     Thickness = 0.50+/-0.05mm
*     Reliability level = Standard
*     Lineup = Lineup Normal
*     Feature = Features Normal
*     Measurement Temperature : 25degC.
*     DC bias Value = 0V
*     Frequency : 100Hz ~ 6GHz
*-----------------------------------------------------------------------------------------------
* External Node Assignments :
*
*  1  o---||---o  2
*
*-----------------------------------------------------------------------------------------------
.SUBCKT CL05B103KB5NNN_Precise_10nF_50V 1 2
C1 1 3 1.04017E-8
C2 3 4 6.53928E-7
C3 4 5 4.64813E-7
C4 5 6 5.51141E-7
C5 6 7 4.99491E-7
C6 7 8 4.80184E-7
C7 8 9 3.67809E-7
C8 9 10 6.66967E-8
C16 17 18 8.42856E-7
C17 18 19 1.51620E-5
C18 19 20 3.65257E-6
C19 20 21 1.15141E-6
C20 21 22 2.53303E-4
C21 22 23 2.53303E-4
C22 23 24 6.67673E-7
C23 24 25 4.20451E-9
C24 25 26 2.53303E-4
C25 26 27 2.53303E-4
C26 27 28 6.82759E-12
C27 28 2 2.53303E-4
L10 11 12 1.24971E-10
L11 12 13 5.17454E-11
L12 13 14 5.63189E-11
L13 14 15 1.0E-10
L14 15 16 1.0E-10
L15 16 17 1.0E-10
L16 17 18 9.17156E-9
L17 18 19 1.36061E-10
L18 19 20 3.27039E-10
L19 20 21 4.00850E-10
L20 21 22 1.0E-10
L21 22 23 1.0E-10
L22 23 24 1.30577
L23 24 25 5.32307E-11
L24 25 26 1.0E-10
L25 26 27 1.0E-10
L26 27 28 5.04282E-11
L27 28 2 1.0E-10
R1 1 3 1.0E9
R2 3 4 12187.11930
R3 4 5 2692.93239
R4 5 6 85.74802
R5 6 7 16.16919
R6 7 8 2.60760
R7 8 9 0.47158
R8 9 10 0.04361
R9 10 11 0.04658
R11 12 13 0.13009
R12 13 14 0.67620
R13 14 15 1.0E-6
R14 15 16 1.0E-6
R15 16 17 1.0E-6
R16 17 18 0.04911
R17 18 19 0.01037
R18 19 20 0.00910
R19 20 21 0.01031
R20 21 22 1.0E-6
R21 22 23 1.0E-6
R22 23 24 327.60002
R23 24 25 0.06337
R24 25 26 1.0E-6
R25 26 27 1.0E-6
R26 27 28 7.04276
R27 28 2 1.0E-6
.ENDS CL05B103KB5NNN_Precise_10nF_50V